US09034880B2
Preparation of 5-(4-tert-butoxyphenethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole (Compound 335)
2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.2 g, 0.001 mol) was dissolved in N-methyl 2-pyrolidone (2.0 mL). Powdered potassium hydroxide (0.5 g, 0.0089 mol) was added and heated at 100° C. for 3 h. Reaction mass was cooled to RT and 1-(2-Bromo-ethyl)-4-tert-butoxy-benzene (0.245 g, 0.001 mol) was added at the same temperature and stir for 2 h at RT (TLC showed incomplete reaction). Reaction mixture was diluted with water (50 mL) and extracted with ethyl acetate (2×100 mL). Organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure using rotary evaporator. The crude was purified through column chromatography (0.5% MeOH:DCM in neutral alumina, Diameter of column—2.5 cm, Height of alumina—approx. 5 inch) then further purified by preparative TLC to provide the desired compound as light yellow oil (0.024 g, 6% yield). 5-[2-(4-tert-Butoxy-phenyl)-ethyl]-2,8-dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole (0.024 g, 0.000063 mol) was dissolved in THF (1.0 mL), A solution of oxalic acid dihydrate (0.008 g, 0.000063 mol) in THF (1.0 mL) was added and stirred for 30 min at RT. The precipitate was filtered and dried to give oxalate salt as off white solid (0.020 g, 67% yield).

reactant | 2,8-Dimethyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | 0.001 mol, 0.2 g | CN1CC2=C(NC=3C=CC(=CC23)C)CC1 | C13H16N2
reactant | potassium hydroxide | 0.0089 mol, 0.5 g | [OH-].[K+]
reactant | 1-(2-Bromo-ethyl)-4-tert-butoxy-benzene | 0.001 mol, 0.245 g | BrCCC1=CC=C(C=C1)OC(C)(C)C | C12H17BrO
solvent | N-methyl 2-pyrolidone | 2.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 50 mL | O | H2O
product | 5-(4-tert-butoxyphenethyl)-2,3,4,5-tetrahydro-2,8-dimethyl-1H-pyrido[4,3-b]indole | 0.024 g, 6% yield | C(C)(C)(C)OC1=CC=C(CCN2C3=C(C=4C=C(C=CC24)C)CN(CC3)C)C=C1 | C25H32N2O
